US07884110B2
5-Chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine-2-carboxylic acid (15.8 g, 38 mmol), N,O-dimethyl hydroxylamine hydrochloride (11.1 g, 114 mmol), DIEA (41 mL, 228 mmol), and BOP (69 g, 156 mmol), were suspended in 80 mL DMF and stirred at room temperature over night. The reaction mixture was diluted with 1 (M) HCl (100 mL), extracted with EtOAc, and the organic portions were washed with 1 (M) aqueous HCl, NaHCO3 and brine. The combined organic extracts were dried (Na2SO4), filtered and concentrated under reduced pressure. The resulting residue was purified by flash column chromatography to afford 5-chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine-2-carboxylic acid methoxy-methyl-amide: MS m/z: (M+H) 458.0.

reactant | 5-Chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine-2-carboxylic acid | 38 mmol, 15.8 g | ClC=1C=C(C(=NC1)C(=O)O)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C13H7Cl2F3N2O4S
reactant | N,O-dimethyl hydroxylamine hydrochloride | 114 mmol, 11.1 g | Cl.CNOC
reactant | DIEA | 228 mmol, 41 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | BOP | 156 mmol, 69 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | HCl | 100 mL | Cl | ClH
product | 5-chloro-3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-pyridine-2-carboxylic acid methoxy-methyl-amide | CON(C(=O)C1=NC=C(C=C1NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)Cl)C | C15H12Cl2F3N3O4S
